US08193189B2
4-{3-[2-Methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-propyl}-morpholine
A solution of 4-(3-Chloro-propyl)-morpholine (460 mg, 2.75 mmol), Cs2CO3 (493 mg, 1.515 mmol) and 2-Methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol (703 mg, 2.75 mmol) in dry DMF (15 ml) are heated at 80° C. under argon for 24 h and then allowed to cool to RT. DMF is removed under HV and the residue is re-taken in EtOAc and washed with de-ionized water. The aqueous phase is re-extracted with EtOAc and the combined organic extracts are washed with saturated brine, dried over Na2SO4, filtered and concentrated under vacuum to dryness. After drying under HV, the title compound is obtained as a solid, Rt=0.878 min (Acquity HPLC BEH C18, 2.1×50 mm, 1.7 micron, detection 215 nM, 0.1 min 2% CH3CN in H2O, 2% to 100% CH3CN in H2O in 1.5 min, 0.4 min 100% CH3CN+0.1% TFA, flow rate 1.0 ml/min); MS: 378 (M+1)+.

reactant | 4-(3-Chloro-propyl)-morpholine | 2.75 mmol, 460 mg | ClCCCN1CCOCC1 | C7H14ClNO
reactant | Cs2CO3 | 1.515 mmol, 493 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-Methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 2.75 mmol, 703 mg | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-{3-[2-Methoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-propyl}-morpholine | COC1=C(OCCCN2CCOCC2)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C20H32BNO5
